US07723333B2
2-tert-Butyl-4-[(3-hydroxypropyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A mixture of 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.300 g, 1.001 mmol), 3-hydroxypropyamine (0.08 ml, 1.001 mmol) and TEA (0.14 ml, 1.001 mmol) in MeCN (5 ml) was stirred at rt. After 18 h the mixture was evaporated to dryness and the residue was purified by silica gel column chromatography (Horizons Biotage) eluting with 33-80% EtOAc (+0.5% TEA) in petroleum ether 40-60° C. to give the title compound (0.145 g, 43%). 1H NMR (500 MHz, CDCl3): δ 7.55-7.50 (m, 2H), 7.46-7.42 (m, 3H), 5.77 (t, 1H), 3.62 (q, 2H), 3.01 (q, 2H), 1.74 (s, 9H), 1.63 (qt, 2H); Mass Spectrum: M−H+ 337.

reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 1.001 mmol, 0.300 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 3-hydroxypropyamine | 1.001 mmol, 0.08 ml | OCCCN | C3H9NO
solvent | MeCN | 5 ml | CC#N | C2H3N
product | 2-tert-Butyl-4-[(3-hydroxypropyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.145 g, 43% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCO)C1=CC=CC=C1)(=O)=O | C16H22N2O4S
